US07846960B2
A solution of 2-iodo-5-methoxy-phenol (39 g, 156 mmol) in dimethylformamide (300 mL) and N,N,N′,N′-tetramethylguanidine (150 mL) is treated with copper(I) Iodide (1.89 g, 9.82 mmol) and bis(triphenylphosphine)palladium(II) chloride (1.9 g; 2.71 mmol; 1.900 g). The mixture is cooled to −78° C., and propyne (100 g; 2.50 moles) is bubbled through the mixture for 1 hour. The reaction mixture is stirred and allowed to warm to room temperature gradually over 6 hours. After stirred for 2 days, the reaction mixture is quenched with water (800 mL) and extracted with EtOAc (500 mL). The organic layers is dried over Na2SO4, filtered and concentrated. The crude product is purified by flash chromatography (eluted with 10% EtOAc/Hexanes) and the appropriate fractions are concentrated. The material is dried in vacuo to afford 6-methoxy-2-methyl-benzofuran (17.5 g, 69%). 1H NMR (400 MHz, CDCl3): δ 7.31-7.29 (d, 1H), 6.95 (s, 1H), 6.81-6.79 (d, 1H), 6.26 (s, 1H), 3.81 (s, 3H), 2.40 (s, 3H).

reactant | 2-iodo-5-methoxy-phenol | 156 mmol, 39 g | IC1=C(C=C(C=C1)OC)O | C7H7IO2
reactant | propyne | 2.50 moles, 100 g | C#CC | C3H4
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | N,N,N′,N′-tetramethylguanidine | 150 mL | CN(C(=N)N(C)C)C | C5H13N3
catalyst | copper(I) Iodide | 9.82 mmol, 1.89 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 2.71 mmol, 1.9 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-methoxy-2-methyl-benzofuran | 17.5 g, 69% | COC1=CC2=C(C=C(O2)C)C=C1 | C10H10O2
